// Generated for: spectre
// Generated on: Jan 20 16:41:06 2026
// Design library name: capstone_tmc03
// Design cell name: inv_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/users/ugrad/ananyb2/CAPSTONE/ncsu-cdk-1.6.0/models/spectre/standalone/tsmc25N.m"
include "/users/ugrad/ananyb2/CAPSTONE/ncsu-cdk-1.6.0/models/spectre/standalone/tsmc25P.m"

// Library name: capstone_tmc03
// Cell name: inv
// View name: schematic
subckt inv vdd vin vout inh_inh_bn
    M0 (vout vin 0 gnd!) tsmc25N w=450.0n l=300n as=3.375e-13 ad=3.375e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
    M1 (vout vin vdd vdd!) tsmc25P w=450.0n l=300n as=3.375e-13 \
        ad=3.375e-13 ps=2.4u pd=2.4u m=1 region=sat
ends inv
// End of subcircuit definition.

// Library name: capstone_tmc03
// Cell name: inv_tb
// View name: schematic
I5 (vdd! net1 net2 0) inv
V1 (net1 0) vsource type=pulse val0=0 val1=2.5 period=10n delay=0 rise=100.0p  \
         fall=100.0p width=4.9n
C0 (net2 0) capacitor c=100 m=1
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf
tran tran stop=50n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save
saveOptions options save=allpub
